US06660744B1
A mixture of N-benzyl-N-(4-bromophenyl)-N-ethylamine (2.22 g, 0.00765 mol), diboron pinacol ester (2.33 g, 0.00919 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.188 g, 0.00023 mol) and potassium acetate (2.25 g, 0.023 mol) in N,N-dimethylformamide (50 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (100 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (3:97) as mobile phase. The resulting fractions were concentrated, the residue was triturated in n-heptane and the precipitate collected by filtration to yield N-benzyl-N-ethyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.24 g, 0.000712 mol).

reactant | N-benzyl-N-(4-bromophenyl)-N-ethylamine | 0.00765 mol, 2.22 g | C(C1=CC=CC=C1)N(CC)C1=CC=C(C=C1)Br | C15H16BrN
reactant | diboron pinacol ester | 0.00919 mol, 2.33 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00023 mol, 0.188 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.023 mol, 2.25 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N-benzyl-N-ethyl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.000712 mol, 0.24 g | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC | C21H28BNO2
